US04596819
(S)-Phenylmethyl 2-[[1-[[[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]carbonyl]-3-methylbutoxy]methyl]-1-pyrrolidinecarboxylate (2-position of pentane chain is RS)
(2S)-Phenylmethyl-2-[(1-carboxy-3-methylbutoxy)methyl]-1-pyrrolidinecarboxylate (center on side chain is R,S mixture), 2 g (0.0057 mol), is dissolved in 100 ml of dichloromethane, cooled to 0° C. and 1.1 g (0.0084 mol) of t-butylglycinate, 0.88 g (0.0057 mol) of 1-hydroxybenzotriazole and 1.32 g (0.0064 mol) of dicyclohexylcarbodiimide are added. The mixture is allowed to reach room temperature and stirred 14 hours, filtered, the solvent evaporated in vacuo and the residue dissolved in 200 ml of dichloromethane and washed successively with a 5% aqueous solution of sodium chloride, 2×200 ml. The dichloromethane layer is separated, dried over sodium sulfate, evaporated in vacuo and the residue purified by chromatography using silica gel and eluting with dichloromethane-methanol (98:2) to give (S)-phenylmethyl 2-[[1-[[[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]carbonyl]-3-methoxy-butoxy]methyl]-1-pyrrolidinecarboxylate (2-position of pentane chain is R S), 1.75 g; [ α]D25 -70.2° (c 0.39, methanol).

reactant | (2S)-Phenylmethyl-2-[(1-carboxy-3-methylbutoxy)methyl]-1-pyrrolidinecarboxylate | C1(=CC=CC=C1)COC(=O)N1[C@@H](CCC1)COC(CC(C)C)C(=O)O | C19H27NO5
reactant | t-butylglycinate | 0.0084 mol, 1.1 g | N[C@@H](C(C)(C)C)C(=O)[O-]
reactant | 1-hydroxybenzotriazole | 0.0057 mol, 0.88 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.0064 mol, 1.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (S)-Phenylmethyl 2-[[1-[[[2-(1,1-dimethylethoxy)-2-oxoethyl]amino]carbonyl]-3-methylbutoxy]methyl]-1-pyrrolidinecarboxylate | CC(C)(OC(CNC(=O)C(CC(C)C)OC[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)C | C25H38N2O6
